2187-11-23 07:57:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Variceal bleeding
   24 Hour Events:
 MULTI LUMEN - STOP [**2187-11-22**] 10:26 AM
 PICC LINE - STOP [**2187-11-22**] 03:54 PM
   - Blood cultures from [**10-21**] growing gram positive cocci in pairs and
   clusters in [**2-19**] bottles.  Patient on vanc/ceftaz
   - OSH Sub-clavian and PICC line pulled.
   - Oxygenation improved with PEEP of 18, gas 7.40/43/93
   - ECHO: normal ventricular function. Mild pulmonary hypertension.
   - Urine lytes: Na<10, Fena 0.2%
   - liver recs re: removed [**Last Name (un) **], no NG tube for 2 days, suggested PR
   lactulose.
   - ammonia level: 57
   - q4hr Hct: stable through the day.
   Allergies:
   Lisinopril
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2187-11-22**] 08:44 AM
   Ceftazidime - [**2187-11-23**] 05:44 AM
   Infusions:
   Insulin - Regular - 3.5 units/hour
   Octreotide - 50 mcg/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-11-23**] 07:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 38.3
C (101
   HR: 96 (80 - 101) bpm
   BP: 115/53(72) {99/40(58) - 149/70(97)} mmHg
   RR: 18 (11 - 28) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 55 Inch
             Total In:
                                                                  1,784 mL
                                                                    295 mL
   PO:
             TF:
   IVF:
                                                                  1,584 mL
                                                                    295 mL
   Blood products:
                                                                    200 mL
   Total out:
                                                                  2,175 mL
                                                                    620 mL
   Urine:
                                                                  1,725 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
                                                                    450 mL
                                                                    200 mL
   Balance:
                                                                   -391 mL
                                                                   -325 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 18 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   Plateau: 28 cmH2O
   Compliance: 34.6 cmH2O/mL
   SpO2: 94%
   ABG: 7.40/45/116/26/1
   Ve: 12.3 L/min
   PaO2 / FiO2: 232
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   101 K/uL
   9.1 g/dL
   126 mg/dL
   1.4 mg/dL
   26 mEq/L
   3.8 mEq/L
   54 mg/dL
   111 mEq/L
   146 mEq/L
   27.2 %
   8.4 K/uL
        [image002.jpg]
                             [**2187-11-22**]  10:21 AM
                             [**2187-11-22**]  10:42 AM
                             [**2187-11-22**]  02:23 PM
                             [**2187-11-22**]  02:27 PM
                             [**2187-11-22**]  02:38 PM
                             [**2187-11-22**]  06:07 PM
                             [**2187-11-22**]  06:27 PM
                             [**2187-11-22**]  11:51 PM
                             [**2187-11-23**]  04:14 AM
                             [**2187-11-23**]  04:33 AM
   WBC
   8.4
   Hct
   29.5
   28.3
   27.1
   27.2
   Plt
   101
   Cr
   1.4
   1.4
   TropT
   0.10
   TCO2
   28
   28
   24
   29
   Glucose
   73
   126
   Other labs: PT / PTT / INR:17.1/30.9/1.5, CK / CKMB /
   Troponin-T:45/2/0.10, ALT / AST:34/95, Alk Phos / T Bili:101/4.1,
   Differential-Neuts:81.4 %, Lymph:8.8 %, Mono:5.3 %, Eos:3.4 %,
   Fibrinogen:320 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.5 g/dL, LDH:417
   IU/L, Ca++:8.9 mg/dL, Mg++:1.8 mg/dL, PO4:4.3 mg/dL
   Imaging: Echo: IMPRESSION: Normal biventricular systolic function. Mild
   estimated pulmonary artery systolic hypertension.
   CXR: Increasing opacities vs poor inspiration
   Microbiology: - Gram positive cocci in clusters in [**2-19**] bottles,
   speciation pending.
   - HCV viral load pending
   Assessment and Plan
 BACTEREMIA
 CIRRHOSIS OF LIVER, OTHER
 DELIRIUM / CONFUSION
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 DIABETES MELLITUS (DM), TYPE II
   Assessment and Plan: 60 year old female with a history of hepatitis C
   cirrhosis, type II diabetes, and alcohol abuse who is transferred from
   [**Hospital 1241**] hospital for management of recurrent variceal bleeding.
   Variceal Bleeding:  [**Last Name (un) 466**] out.  Hct slowly trending down.  No
   changes for now.  Access is 12 F triple lumen.  Q8hr hematocrits today.
   Patient now with two episodes of variceal bleeding within a two week
   period.  Over the past 24 hours she has required five units of packed
   red blood cells.  She is currently hemodynamically stable and her
   hematocrit is 37.3.  Her bleeding is complicated by mild acute renal
   failure with a creatinine of 1.5.  Upper endoscopy on [**2187-11-9**] showed
   multiple cords of grade 3 varices and significant portal hypertensive
   gastropathy.  Endoscopy today showed active variceal bleeding and
   intervention was unsucessful.  She currently has [**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] tube in
   place.
   - appreciate liver consult
   - maintain active type and screen
   - 12 F triple lumen in place in right IJ
   - will remove PICC and left subclavian line
   - 6 units of PRBCs crossmatched
   - she is now s/p TIPS procedure for management of her portal
   hypertension as well as 7 liter paracentesis
   - will continue octreotide drip
   - continue pantoprazole drip
   - will give albumin 50 grams given large volume paracentesis
   - vancomycin and ceftazidime for SBP prophylaxis/coverage given fever
   this morning
   - Q4H hematocrit, platelet count, INR tonight
   Respiratory Failure:  Patient has now been intubated since [**2187-11-9**]
   with difficulty weaning secondary to high PEEP and FiO2 requirements.
   The etiology of her respiratory failure is unclear but was initially
   felt to be secondary to ARDS in the setting of aspirating large volumes
   of blood.  Her respiratory mechanics are also affected by significant
   ascites and small lung volumes.  Although her initial xray is a poor
   quality film, she does appear to have volume loss on the right side
   which may also be contributing.  This repeat episode of bleeding
   occurred immediately prior to planned tracheostomy.  Per notes she has
   had a previous episode of respiratory failure in the setting of being
   found unresponsive on [**2187-10-23**].  ABG now improved with large volume
   parcentesis.
   - continue assist control ventilation for now in the setting of acute
   variceal bleeding
   - will repeat ABG now and attempt to decrease FiO2
   - will increase respiratory rate for mild hypercarbia on ABG
   - propofol for sedation
   Fevers:  GPC in clusters and pairs.  Continue vanc and ceftaz.  Febrile
   again this morning.  cultures drawn.
   Patient was reportedly febrile to 101 degrees this morning at
   [**Hospital1 1241**]  She was ordered for vancomycin and ceftazidime but did not
   receive these medications.  Cultures during her OSH course appear to
   have been negative with the exception of a sputum positive for
   stenotrophomonas and a rectal swab positive for VRE.  This appears to
   be an isolated fever.
   - blood and urine cultures pending from here
   - will follow up cultures from [**Hospital1 1241**]
   - will need to consider diagnostic paracentesis in the AM
   - will send stool for c. diff
   - will send sputum cultures
   - broad spectrum antibiotic coverage with vancomycin and ceftazidime
   Acute Renal Failure:  Creatinine at 1.5 from baseline of 1.1 prior to
   this hospitalization.  Elevation is in the setting of acute GI
   bleeding.
   - IV hydration targeted towards urine ouptut, MAP > 65
   - will send urine electrolytes
   - will give albumin 50 grams now given large volume paracentesis and
   renal failure
   - will consider renal consult if worsening
   Hyperkalemia:  Occuring in the setting of renal failure and also
   receiving multiple blood products.  It is now trending down.
   - will hold on kaexylate for now but consider if potassium is riding
   Cirrhosis/End Stage Liver Disease:  Secondary to hepatitis C and
   alcohol abuse.  Current MELD score is 21.  She has recurrent variceal
   bleeding.  The remainder of her history is unclear.
   - treatment of variceal bleeding as above
   - vancomycin and ceftazidime for empiric coverage of fevers, cultures
   pending
   - consider paracentesis in the AM
   - octreotide and pantoprazole drips for variceal bleeding
   - albumin 50 grams given large volume paracentesis
   - will need to remove [**Last Name (un) **] tube in the morning
   - as above, now s/p TIPS
   - holding lactulose given [**Last Name (un) **] in place
   Type II Diabetes:  Per notes has been requiring significant doses of
   insulin in her TPN as well as slidign scale. Given critical illness
   will use insulin drip for now.
   - insulin drip
   - calculate insulin needs over 24 hours
   Elevated troponin:  Troponin 0.10 in the setting of acute renal failure
   with flat CKs.  Unlikely to represent acute coronary syndrome given
   normal CKs.
   - EKG on arrival to the MICU
   - not a candidate for aspirin, plavix, heparin, beta blocker or statin
   in current medical condition
   - will trend cardiac enzymes
   FEN: Albumin 50 grams post paracentesis, replete electrolytes, NPO
   Prophylaxis: Pneumoboots
   Access: Right IJ, left SC, right PICC, left arterial line
   Code:  Full (discussed with  HCP)
   Communication: Brother [**Name (NI) 1309**] [**Name (NI) **] [**Telephone/Fax (3) 9128**]-327
   Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2187-11-22**] 02:09 AM
   Multi Lumen - [**2187-11-22**] 02:11 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2187-11-24 07:10:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2187-11-23**] 04:00 PM
 ARTERIAL LINE - START [**2187-11-23**] 04:00 PM
   -Pt continues off sedation, able to answer simple questions
   - A line placed
   - TID Hct: 25 -> 29 -> 28
   - PPI gtt changed to [**Hospital1 **]
   - liver recs: Keep ceftriaxone for SBP will get back to us today re NGT
   - if NGT, nutrition c/s for TF
   - From [**Hospital1 1910**] (liver): Patient was listed for transplant at [**Hospital1 1910**],
   actually active on the transplant list as they had not heard of her
   most recent hospitalization, Dr. [**First Name (STitle) 9171**] believes that they would like
   her back to transplant her. They will call when an ICU bed is
   available...
   - Had frothy fluid from ETT, suctioned, O2 sats in low 90s, PEEP of 18,
   given Lasix 20mg, 20mg, CXR with pulm edema
   - Now with apparent air leak, RT reinflating cuff every hour or so,
   probably needs it changed
   Allergies:
   Lisinopril
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2187-11-23**] 08:24 AM
   Ceftazidime - [**2187-11-23**] 02:00 PM
   Ceftriaxone - [**2187-11-23**] 05:00 PM
   Infusions:
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2187-11-23**] 04:30 PM
   Furosemide (Lasix) - [**2187-11-23**] 09:00 PM
   Pantoprazole (Protonix) - [**2187-11-24**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-11-24**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.2
C (99
   HR: 93 (78 - 96) bpm
   BP: 125/52(74) {103/43(61) - 142/61(86)} mmHg
   RR: 17 (0 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
    CVP: 10 (7 - 28)mmHg
   Bladder pressure: 20 (20 - 20) mmHg
   Total In:
                                                                  1,284 mL
                                                                    424 mL
   PO:
   TF:
                                                                     64 mL
   IVF:
                                                                    984 mL
                                                                    195 mL
   Blood products:
   Total out:
                                                                  2,644 mL
                                                                  1,415 mL
   Urine:
                                                                  2,444 mL
                                                                    615 mL
   NG:
   Stool:
   Drains:
                                                                    200 mL
   Balance:
                                              -1,360   --> LOS is -2.6L mL
                                                                   -991 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 18 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 32 cmH2O
   Plateau: 25 cmH2O
   Compliance: 64.3 cmH2O/mL
   SpO2: 96%
   ABG: 7.41/43/134/27/2    (yesterday 1030pm)
   Ve: 9.2 L/min
   PaO2 / FiO2: 268
   Physical Examination
   General Appearance: Opens eyes spontaneously but doesn't track across
   room, doesn't squeeze hand. Audible breath sounds from cuff leak.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed), RRR, no murmurs heard
   Respiratory / Chest: Lungs sounds fairly clear
   Abdominal: Large, distended but not tight
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   99 K/uL
   9.4 g/dL
   134 mg/dL
   1.3 mg/dL
   27 mEq/L
   3.2 mEq/L  replaced this am
   50 mg/dL
   112 mEq/L
   148 mEq/L
   28.5 %
   7.1 K/uL
        [image002.jpg]
                             [**2187-11-22**]  06:07 PM
                             [**2187-11-22**]  06:27 PM
                             [**2187-11-22**]  11:51 PM
                             [**2187-11-23**]  04:14 AM
                             [**2187-11-23**]  04:33 AM
                             [**2187-11-23**]  07:08 AM
                             [**2187-11-23**]  02:31 PM
                             [**2187-11-23**]  10:16 PM
                             [**2187-11-23**]  10:29 PM
                             [**2187-11-24**]  03:22 AM
   WBC
   8.4
   7.1
   Hct
   28.3
   27.1
   27.2
   27.5
   25.6
   29.0
   28.5
   Plt
   101
   99
   Cr
   1.4
   1.3
   TCO2
   24
   29
   28
   Glucose
   126
   134
   Other labs: PT / PTT / INR:18.2/30.7/1.6   (this am) , CK / CKMB /
   Troponin-T:45/2/0.10, ALT / AST:34/95, Alk Phos / T Bili:101/4.1
   (LFT's yesterday) , Differential-Neuts:81.4 %, Lymph:8.8 %, Mono:5.3 %,
   Eos:3.4 %, Fibrinogen:320 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.5
   g/dL, LDH:417 IU/L, Ca++:9.2 mg/dL, Mg++:1.8 mg/dL, PO4:4.3 mg/dL
   Imaging: [**2187-11-23**] CXR Improvement in pulmonary edema which is now mild
   to moderate with new right
   lower lobe air space opacity, possibly aspiration or early infection;
   an early
   follow up chest radiograph is recommended.
   Microbiology: [**2187-11-24**] Bcx negative to date
   [**2187-11-23**] HCV viral load 12,500
   [**2187-11-23**] BCx negative to date
   [**2187-11-22**] BCx negative to date, catheter tip negative
   [**2187-11-21**] BCx with coag negative Staph
   Assessment and Plan
 ALTERATION IN NUTRITION
 BACTEREMIA
 CIRRHOSIS OF LIVER, OTHER
 DELIRIUM / CONFUSION
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 DIABETES MELLITUS (DM), TYPE II
   Assessment and Plan: 60 year old female with a history of hepatitis C
   cirrhosis, type II diabetes, and alcohol abuse who is transferred from
   [**Hospital 1241**] hospital for management of recurrent variceal bleeding.
   Variceal Bleeding:  s/p TIPS procedure.  [**Last Name (un) 466**] removed yesterday by
   radiology.  While her Hct is slowly trending down there are no signs of
   acute bleed.  No changes for now.  Access is 12 F triple lumen.
   - Plan is to transfer her to [**Hospital1 1910**] where she is known to Dr. [**First Name (STitle) 9171**] and
   she was being worked up for transplant
   - appreciate liver consult
   - maintain active type and screen, rescreen today
   - has 7U PRBC's crossmatched. Will need to cancel them for today
   - 12 F triple lumen in place in right IJ
   - Q8hr hematocrits today.
   - pantoprazole to 40mg IV BID
   - continue octreotide drip.
   Cirrhosis/End Stage Liver Disease:  Secondary to hepatitis C and
   alcohol abuse.  She is now off of sedation and remains significantly
   altered likely from encephalopathy.  Ideally we need to be able to give
   PO lactulose and rifaximin.  We will attempt a dobhoff placement
   today.  Current MELD score is 21.  She has recurrent variceal
   bleeding.  The remainder of her history is unclear at this time.  Per
   secretary at hepatology office, she was on the transplant list, but we
   need further clarification.
   - liver team following.  Will discuss dobhoff placement with them.
   - treatment of variceal bleeding as above
   - now getting PO Rifaxamin and Lactulose
   - vancomycin for bacteremia.
   - octreotide drip and pantoprazole IV for variceal bleeding
   Respiratory Failure:  CXR has worsening patchy infiltrates today.
   Patient has now been intubated since [**2187-11-9**] with difficulty weaning
   secondary to high PEEP and FiO2 requirements.  The etiology of her
   respiratory failure is unclear but was initially felt to be secondary
   to ARDS in the setting of aspirating large volumes of blood.  Her
   respiratory mechanics are also affected by significant ascites and
   small lung volumes.
   - continue assist control ventilation for now given difficult
   oxygenation, will try a spontaneous breath trial today
   - Will need new tube as there appears to be a cuff leak
   - now off sedation
   - no indication for trach at this time, especially as she has difficult
   access.
   Pulm edema: seen on CXR with frothy liquid coming from ETT
   - keep negative for today: will give 20mg Lasix today and monitor UOP
    Fevers:  Cultures grew GPC in clusters and pairs here on [**2-19**] bottles.
   At OSH grew what appears to be staph aureus on [**3-21**] bottles with
   sensitivities pending.  Has been on vancomycin and ceftazidime but
   switched to Vanc and Ceftriaxone.  Febrile to 100.7 yesterday 8pm.
   - ID consult given positive culture.
   - Has already had ECHO while bacteremic without signs of vegetations.
   - Will continue Vanc and Ceftriaxone per liver recs
   - Now day 4 Vanc and day 2 Ceftriaxone
   Acute Renal Failure:  Creatinine at admission 1.5 from baseline of 1.1
   prior to this hospitalization.  FENa consistent with prerenal etiology
   and Cr has continued to trend downward.  Urine output has been good.
   - Monitor bladder pressures to prevent peritoneal pressures obstructing
   renal perfusion.
   - Fluid repletion should happen via feeds.  We will try to place a
   dobhoff today to allow for POs.
   - Will give 500cc's D5 this am with potassium and f/u Cr this pm
   Type II Diabetes:  Had been on an insulin gtt at the outside hospital
   and here but have now started subQ insulin.
   - Currently on Glargine 25 qhs and SSI
   - Watch BS's and adjust accordingly, have been in the 100's through
   yesterday
   -Hypernatremia: Likely from poor fluid intake as she is negative 2.6
   through LOS and was negative through yesterday
   - Will replace K this am with 500cc D5W
   - repeat lytes this pm and f/u
   FEN: Albumin 50 grams post paracentesis, replete electrolytes, has now
   started tube feeds through Dobhoff
   Prophylaxis: Pneumoboots
   Access: Right IJ. R art line.
   Code:  Full (discussed with  HCP)
   Communication: Brother [**Name (NI) 1309**] [**Name (NI) **] [**Telephone/Fax (3) 9128**]-327.  He
   lives in [**State 2914**] and would still like aggressive care at this time.
   Disposition: will transfer to [**Hospital1 1910**] for further liver transplant w/u
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2187-11-24**] 12:14 AM 10 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2187-11-22**] 02:11 AM
   Arterial Line - [**2187-11-23**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2187-11-25 08:09:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Transfer to [**Hospital1 **] not indicated based on discussion with intensivist,
   Dr. [**Last Name (STitle) 9185**] [**Telephone/Fax (1) 9186**].  Can call Monday to explore further prn.
   - PM labs: Na higher (148 --> 149, increased free H20 flushes to 250
   q4), K 3.5 repleted, Mg 1.8, Hct 25.8 down from 28.5 --> will repeat in
   am
   - PEEP decreased from 18 to 15 --> sats looked OK, so decreased even
   more to 12
   - RT readjusted the ETT and then it was in R mainstem bronchus, pulled
   back, now 16mm above carina.
   - Liver: No further bleeding. Pulm issues. Continue support.
   - Increased Lantus to 30qhs
   - ABG at 3a 7.43/39/99/27
   Allergies:
   Lisinopril
   Unknown;
   Last dose of Antibiotics:
   Ceftazidime - [**2187-11-23**] 02:00 PM
   Ceftriaxone - [**2187-11-23**] 05:00 PM
   Vancomycin - [**2187-11-24**] 08:06 AM
   Infusions:
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-11-25**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.6
C (99.6
   HR: 83 (75 - 100) bpm
   BP: 135/55(81) {104/39(58) - 142/68(93)} mmHg
   RR: 16 (12 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
    CVP: 19 (7 - 27)mmHg
   Total In:
                                                                  1,921 mL
                                                                    658 mL
   PO:
   TF:
                                                                    589 mL
                                                                    211 mL
   IVF:
                                                                  1,047 mL
                                                                    138 mL
   Blood products:
   Total out:
                                                                  3,055 mL
                                                                    220 mL
   Urine:
                                                                  1,355 mL
                                                                    220 mL
   NG:
   Stool:
   Drains:
                                                                    400 mL
   Balance:
                                                                 -1,134 mL
                                                                    438 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 19 cmH2O
   Plateau: 22 cmH2O
   Compliance: 45 cmH2O/mL
   SpO2: 99%
   ABG: 7.43/39/99.[**Numeric Identifier 433**]/26/1
   Ve: 10.8 L/min
   PaO2 / FiO2: 198
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   91 K/uL
   8.9 g/dL
   261 mg/dL
   1.2 mg/dL
   26 mEq/L
   3.9 mEq/L
   52 mg/dL
   114 mEq/L
   149 mEq/L
   27.0 %
   5.6 K/uL
        [image002.jpg]
                             [**2187-11-23**]  04:14 AM
                             [**2187-11-23**]  04:33 AM
                             [**2187-11-23**]  07:08 AM
                             [**2187-11-23**]  02:31 PM
                             [**2187-11-23**]  10:16 PM
                             [**2187-11-23**]  10:29 PM
                             [**2187-11-24**]  03:22 AM
                             [**2187-11-24**]  05:13 PM
                             [**2187-11-25**]  02:48 AM
                             [**2187-11-25**]  02:58 AM
   WBC
   8.4
   7.1
   5.6
   Hct
   27.2
   27.5
   25.6
   29.0
   28.5
   25.8
   27.0
   Plt
   101
   99
   91
   Cr
   1.4
   1.3
   1.2
   TCO2
   29
   28
   27
   Glucose
   126
   134
   261
   Other labs: PT / PTT / INR:16.1/29.3/1.4, CK / CKMB /
   Troponin-T:45/2/0.10, ALT / AST:50/109, Alk Phos / T Bili:218/3.3,
   Differential-Neuts:81.4 %, Lymph:8.8 %, Mono:5.3 %, Eos:3.4 %,
   Fibrinogen:320 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.5 g/dL, LDH:417
   IU/L, Ca++:8.7 mg/dL, Mg++:1.9 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 BACTEREMIA
 CIRRHOSIS OF LIVER, OTHER
 DELIRIUM / CONFUSION
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 DIABETES MELLITUS (DM), TYPE II
   Assessment and Plan: 60 year old female with a history of hepatitis C
   cirrhosis, type II diabetes, and alcohol abuse who is transferred from
   [**Hospital 1241**] hospital for management of recurrent variceal bleeding.
   #Variceal Bleeding:  s/p TIPS procedure.  [**Last Name (un) 466**] removed. HCT
   stable.  No changes for now.  Access is 12 F triple lumen.
   - Plan is to transfer her to [**Hospital1 1910**] where she is known to Dr. [**First Name (STitle) 9171**] and
   she was being worked up for transplant
   - appreciate liver consult
 will f/u their recs
   - maintain active type and screen,
   - 12 F triple lumen in place in right IJ
   - Q8hr hematocrits today.
   - pantoprazole to 40mg IV BID
   - continue octreotide drip.
   #Cirrhosis/End Stage Liver Disease:  Secondary to hepatitis C, alcohol
   abuse and NASH.  HCV viral load 12,500 . She is now off of sedation and
   remains significantly altered likely from encephalopathy.  Getting
   lactulose and rifaxamin by Dobhoff.  Current MELD score is 16. ALT and
   AST trending upward. Alk phos also acutely elevated. [**Month (only) 11**] be cholestasis
   secondary to NPO given patient was NPO for sig time.
   - treatment of variceal bleeding as above
   - now getting PO Rifaxamin and Lactulose
   #Respiratory Failure:  Patient has now been intubated since [**2187-11-9**]
   with difficulty weaning secondary to high PEEP and FiO2 requirements.
   The etiology of her respiratory failure is unclear but was initially
   felt to be secondary to ARDS in the setting of aspirating large volumes
   of blood.  Her respiratory mechanics are also affected by significant
   ascites and small lung volumes.
   -PEEP currently at 12, tolerating well, will try to wean to 10 today.
   - Watch O2 sats
   - [**Month (only) 11**] need trach but will try to wean to better PEEPs
   # Fevers:  Cultures grew GPC in clusters and pairs here on [**2-19**]
   bottles.  At OSH grew Staph Epidermis 3/4 bottles with sensitivity only
   to vancomycin.  Has been on vancomycin and ceftazidime but switched to
   Vanc and Ceftriaxone.
   - ID consult given positive culture.
   - Has already had ECHO while bacteremic without signs of vegetations.
   - Will continue Vanc and Ceftriaxone per liver recs
   - Now day 5 Vanc and day 3 Ceftriaxone
   #Acute Renal Failure:  Creatinine at admission 1.5 from baseline of 1.1
   prior to this hospitalization.  FENa consistent with prerenal etiology
   and Cr has continued to trend downward.  Urine output has been good.
   #Type II Diabetes:  Had been on an insulin gtt at the outside hospital
   and here but have now started subQ insulin. Blood sugars in 200s.
   - Currently on Glargine 30 qhs and SSI
   - Increase glargine to 38 qhs.
   -Hypernatremia: Likely from poor fluid intake as she is negative 2.3
   through LOS. Improving with free water flushes.
   -Continue free water flushes 250ml q4 hours
   - repeat lytes this pm and f/u
   #Thrombocytopenia: Patient continues to trend down. Per notes from OSH,
   patient appears to usually be around 100.
   -Continue to monitor
   #FEN: Albumin 50 grams post paracentesis, replete electrolytes, has now
   started tube feeds through Dobhoff
   Prophylaxis: Pneumoboots
   Access: Right IJ. R art line.
   Code:  Full (discussed with  HCP)
   Communication: Brother [**Name (NI) 1309**] [**Name (NI) **] [**Telephone/Fax (3) 9128**]-327.  He
   lives in [**State 2914**] and would still like aggressive care at this time.
   Disposition: will transfer to [**Hospital1 1910**] for further liver transplant w/u
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2187-11-22**] 02:11 AM
   Arterial Line - [**2187-11-23**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2187-11-26 06:18:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2187-11-25**] 02:45 PM
   - possible transfer to [**Hospital1 1910**] Monday: no beds today
   - Liver recs: stop octreotide drip, continue to follow
   - PM Hct/lytes: stable, slightly improved hypernatremia.
   - Humalog dose:increased to 50 qhs
   - Came down on PEEP to 8 cm/H20.
   Allergies:
   Lisinopril
   Unknown;
   Last dose of Antibiotics:
   Ceftazidime - [**2187-11-23**] 02:00 PM
   Vancomycin - [**2187-11-25**] 08:00 AM
   Ceftriaxone - [**2187-11-25**] 04:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-11-26**] 06:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.4
C (99.4
   HR: 75 (71 - 93) bpm
   BP: 120/47(68) {98/41(57) - 142/65(88)} mmHg
   RR: 20 (15 - 40) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 140 kg (admission): 132 kg
   Height: 64 Inch
    CVP: 9 (9 - 19)mmHg
   Total In:
                                                                  3,289 mL
                                                                    800 mL
   PO:
   TF:
                                                                    960 mL
                                                                    240 mL
   IVF:
                                                                    898 mL
                                                                     60 mL
   Blood products:
   Total out:
                                                                  1,680 mL
                                                                    210 mL
   Urine:
                                                                  1,080 mL
                                                                    210 mL
   NG:
   Stool:
                                                                    600 mL
   Drains:
   Balance:
                                         1,609  through LOS negative .6 mL
                                                                    590 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 122 (122 - 512) mL
   PS : 14 cmH2O
   RR (Set): 20
   RR (Spontaneous): 3
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 21 cmH2O
   Plateau: 18 cmH2O
   Compliance: 225 cmH2O/mL
   SpO2: 99%
   ABG: 7.42/42/87/27/2
   Ve: 8.6 L/min
   PaO2 / FiO2: 174
   Physical Examination
   General Appearance: Opens eyes spontaneously but does not follow
   commands. Looks around.
   Head, Ears, Nose, Throat: L nostril with crusted blood and ulceration
   from [**Last Name (un) 466**]
   Cardiovascular: S1 S2 clear with systolic murmur
   Respiratory / Chest: Upper airway ventilator sounds, good air movement
   Abdominal: Distended but soft, no grimacing to palpation
   Extremities: No BLE edema
   Skin:  Not assessed, Chronic venous changes in BLE's
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   110 K/uL
   9.2 g/dL
   312 mg/dL
   1.0 mg/dL
   27 mEq/L
   4.0 mEq/L
   48 mg/dL
   114 mEq/L
   147 mEq/L
   28.9 %
   4.6 K/uL
        [image002.jpg]
                             [**2187-11-23**]  10:29 PM
                             [**2187-11-24**]  03:22 AM
                             [**2187-11-24**]  05:13 PM
                             [**2187-11-25**]  02:48 AM
                             [**2187-11-25**]  02:58 AM
                             [**2187-11-25**]  10:34 AM
                             [**2187-11-25**]  01:19 PM
                             [**2187-11-25**]  04:00 PM
                             [**2187-11-26**]  03:26 AM
                             [**2187-11-26**]  03:56 AM
   WBC
   7.1
   5.6
   4.6
   Hct
   28.5
   25.8
   27.0
   28.1
   28.9
   Plt
   99
   91
   110
   Cr
   1.3
   1.2
   1.0
   1.0
   TCO2
   28
   27
   25
   24
   28
   Glucose
   134
   261
   314
   312
   Other labs: PT / PTT / INR:16.9/26.5/1.5  (TODAY)  , CK / CKMB /
   Troponin-T:45/2/0.10, ALT / AST:46/78  today  -->  (50/109) yesterday,
   Alk Phos / T Bili:225/2.8   <--218/3.3, 101/4.1,
   Differential-Neuts:81.4 %, Lymph:8.8 %, Mono:5.3 %, Eos:3.4 %,
   Fibrinogen:320 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.5 g/dL, LDH:417
   IU/L, Ca++:8.1 mg/dL, Mg++:2.0 mg/dL, PO4:2.4 mg/dL
   Microbiology: [**2187-11-25**] Sputum with 3+ GNR's
   [**2187-11-25**] Cdiff negative
   [**2187-11-24**] BCx negative to date
   [**2187-11-23**] HCV VL 12,500
   [**2187-11-22**] sputum with 1+ GPC's and 1+ GNR's that was called as resp flora
   Assessment and Plan
 ALTERATION IN NUTRITION
 BACTEREMIA
 CIRRHOSIS OF LIVER, OTHER
 DELIRIUM / CONFUSION
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 DIABETES MELLITUS (DM), TYPE II
   Assessment and Plan: 60 year old female with a history of hepatitis C
   cirrhosis, type II diabetes, and alcohol abuse who is transferred from
   [**Hospital 1241**] hospital for management of recurrent variceal bleeding.
   #Variceal Bleeding:  s/p TIPS procedure.  [**Last Name (un) 466**] removed. HCT
   stable.  No changes for now.  Access is 12 F triple lumen.
   - Plan is to transfer her to [**Hospital1 1910**] where she is known to Dr. [**First Name (STitle) 9171**] and
   she was being worked up for transplant
   - appreciate liver consult
 octreotide gtt stopped
   - maintain active type and screen currently outdate [**2187-11-27**]
   - 12 F triple lumen in place in right IJ
   - [**Hospital1 **] HCT
   - pantoprazole to 40mg IV BID
   #Cirrhosis/End Stage Liver Disease:  Secondary to hepatitis C, alcohol
   abuse and NASH.  HCV viral load 12,500 . She is now off of sedation and
   remains significantly altered likely from encephalopathy.  Getting
   lactulose and rifaxamin by Dobhoff.  Current MELD score is 16. ALT and
   AST now down after trending upward. Alk phos also acutely elevated. [**Month (only) 11**]
   be cholestasis secondary to NPO given patient was NPO for sig time.
   - treatment of variceal bleeding as above
   - now getting PO Rifaxamin and Lactulose
   #Respiratory Failure:  Patient has now been intubated since [**2187-11-9**]
   with difficulty weaning secondary to high PEEP and FiO2 requirements.
   The etiology of her respiratory failure is unclear but was initially
   felt to be secondary to ARDS in the setting of aspirating large volumes
   of blood.  Her respiratory mechanics are also affected by significant
   ascites and small lung volumes.
   -PEEP currently at 8, tolerating well, will try to wean today as
   tolerated
   - Watch O2 sats
   - ABG to assess weaning
   # Fevers:  Cultures grew GPC in clusters and pairs here on [**2-19**]
   bottles.  At OSH grew Staph Epidermis 3/4 bottles with sensitivity only
   to vancomycin.  Has been on vancomycin and ceftazidime but switched to
   Vanc and Ceftriaxone
   - Has already had ECHO while bacteremic without signs of vegetations.
   - Now day 6 Vanc and day 4 Ceftriaxone
   #Acute Renal Failure:  Creatinine at admission 1.5 from baseline of 1.1
   prior to this hospitalization.  FENa consistent with prerenal etiology
   and Cr has continued to trend downward and is now normal.  Urine output
   has been good.
   #Type II Diabetes:  Had been on an insulin gtt at the outside hospital
   and here but have now started subQ insulin. Blood sugars in 200s.
   - Increased last night to Glargine 50 qhs
   - Continue ISS
   -Hypernatremia: Likely from poor fluid intake as she is negative 2.3
   through LOS. Improving with free water flushes.
   -Continue free water flushes 250ml q4 hours
   - repeat electrolytes this pm and f/u
   #Thrombocytopenia: Patient continues to trend down. Per notes from OSH,
   patient appears to usually be around 100.
   -Continue to monitor
   #FEN: replete electrolytes, has now started tube feeds through Dobhoff
   Prophylaxis: Pneumoboots
   Access: Right IJ. R art line.
   Code:  Full (discussed with  HCP)
   Communication: Brother [**Name (NI) 1309**] [**Name (NI) **] [**Telephone/Fax (3) 9128**]-327.  He
   lives in [**State 2914**] and would still like aggressive care at this time.
   Disposition: will transfer to [**Hospital1 1910**] for further liver transplant w/u on
   Monday
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2187-11-26**] 01:02 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2187-11-22**] 02:11 AM
   Arterial Line - [**2187-11-23**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: